US09212190B2
Synthesis of 2-[(3R)-12-[(4-aminocyclohexyl)oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(12),2(6),8,10-tetraen-3-yl]acetamide (I-150)
To a solution of tert-butyl N-(4-[[(3R)-3-(carbamoylmethyl)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(12),2(6),8,10-tetraen-12-yl]oxy]cyclohexyl)carbamate (120 mg, 0.27 mmol, 1.00 equiv) in dichloromethane (15 mL) was added hydrochloric acid (conc.) (0.2 mL). The resulting solution was stirred for 1 h at room temperature. The pH value of the solution was adjusted to pH>8 with saturated sodium bicarbonate solution. The solids were collected by filtration and then washed with water and methanol. This afforded 33.2 mg (36%) of 2-[(3R)-12-[(4-aminocyclohexyl)oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(12),2(6),8,10-tetraen-3-yl]acetamide as a white solid. 1H NMR (300 MHz, CD3OD, ppm): δ 1.32-1.46 (m, 2H), 1.61-1.70 (m, 2H), 1.98-2.03 (m, 2H), 2.17-2.30 (m, 4H), 2.62-2.74 (m, 1H), 2.82-3.20 (m, 4H), 2.72-3.80 (m, 1H), 5.23-5.31 (m, 1H), 8.42 (s, 1H).

reactant | tert-butyl N-(4-[[(3R)-3-(carbamoylmethyl)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(12),2(6),8,10-tetraen-12-yl]oxy]cyclohexyl)carbamate | 0.27 mmol, 120 mg, 1.00 equiv | C(N)(=O)C[C@@H]1C=2C3=C(N=CN=C3SC2CC1)OC1CCC(CC1)NC(OC(C)(C)C)=O | C22H30N4O4S
reactant | hydrochloric acid | 0.2 mL | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 2-[(3R)-12-[(4-aminocyclohexyl)oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(12),2(6),8,10-tetraen-3-yl]acetamide | NC1CCC(CC1)OC=1N=CN=C2SC=3CC[C@@H](C3C12)CC(=O)N | C17H22N4O2S
